Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right tibial plateau fracture w/ avulsion fracture of patella
 
Major Surgical or Invasive Procedure:
No surgical procedures performed. Patient treated 
conservatively. 

 
History of Present Illness:
___ with h/o IVDA, CAD, multiple herniated disks in his back who 
presented to outside hospital for MVC and was transferred for R 
tibial plateau fracture. Reports he had been using fentanyl and 
possibly cocaine and was driving. Reports losing control of his 
vehicle and going off of the road. Reports he spun around and 
became wedged between 2 trees. Reports he was restrained and had 
partially extricated himself. Reports intrusion into the 
driver's compartment and the windshield was broken. Denies head 
injury or loss of consciousness. Reports primarily right knee 
and lower leg
pain denies chest pain, fever, chills, cough, shortness of 
breath, abdominal pain. 

Patient coming from ___. Reexamination there notable for 
moderate amount of swelling around the knee. Notable for 
increased pain with flexion of the ankle though continues to 
have a good pulse and sensation. Transferred here by ortho for 
definitive mgmt. 

CT head and C-spine outside hospital negative. 
 
Past Medical History:
Non contributory
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Exam on discharge:

Vitals: Afebrile, VSS
General: Well-appearing, breathing comfortably on RA.
MSK:
 RLE:
-Leg in ___ locked in extension
-Fires ___
-SILT s/s/sp/dp/t distributions distally
-Foot WWP
 
Pertinent Results:
see OMR for pertinent results
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a comminuted lateral medial tibial plateau fractures, 
nondepressed, minor fracture involving the inferior patellar 
margin. and was admitted to the orthopedic surgery service. The 
patient was managed non operatively, put in ___ brace 
locked in extension, touchdown weight-bearing. The patient 
worked with ___ who determined that discharge to home was 
appropriate. Of note, the patient's blood pressure was noted to 
be elevated during admission. The patient stated that he used to 
be on blood pressure meds when he had insurance. He was 
encouraged to follow up with a primary care physician for blood 
pressure management. In addition, the patient met with social 
work to discuss substance abuse and safety. He was receptive to 
the information provided. Before discharge, he agreed to take 
his pain medication as prescribed only, and not to drive or 
operate machinery while on the medication. The ___ 
hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
touchdown weight-bearing in ___ locked in extension in the 
right lower extremity, and will be discharged on Aspirin for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet by mouth once a day Disp #*28 Tablet 
Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right comminuted lateral medial tibial plateau fractures, 
nondepressed, minor fracture involving the inferior patellar 
margin.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:
- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- TDWB in ___ locked in extension right lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take 325 aspirin daily for 4 weeks

WOUND CARE:
- ___ Brace must be left on until follow up appointment 
unless otherwise instructed
- Do NOT get ___ Brace wet
 
Followup Instructions:
___